US04351954
In a transparent quartz tube having an inner volume of 300 ml, 48 g (0.20 mol) of 1-chloro-2-iodo-1,1,2-trifluoroethane and 26 g (0.24 mol) of ethyl acrylate were placed in conjunction with 100 ml of 1,1,2-trichlorotrifluoroethane and were exposed to an ulraviolet ray issuing from a spiral light source for 25 hours. After this irradiation, the solvent trichlorotrifluoroethane was expelled from the resultant mixture by distillation under normal pressure and, subsequently, the unaltered reactants were recovered by distillation under a slightly lowered pressure. By subjecting the remaining reaction mixture to vacuum distillation, there was obtained 9.5 g (0.028 mol) of ethyl 2-iodo-4,5,5-trifluoro-5-chloropentanoate of b.p. 79° to 82° C./3 mm, nD20 1.4610, d420 1.728 and νC=0 1732 cm-1. This adduct was a mixture of two diastereomers (42:58). This reaction by-produced ethyl 4,5,5-trifluoro-5-chloro-2-pentanoate due to removal of hydrogen iodide from the adduct and ethyl 4,5,5-trifluoro-5-chloropentanoate due to substitution of iodine with hydrogen, etc. in small amounts.

reactant | 1-chloro-2-iodo-1,1,2-trifluoroethane | 0.20 mol, 300 ml, 48 g | ClC(C(F)I)(F)F | C2HClF3I
reactant | ethyl acrylate | 0.24 mol, 26 g | C(C=C)(=O)OCC | C5H8O2
reactant | 1,1,2-trichlorotrifluoroethane | 100 ml | ClC(C(Cl)(F)F)(Cl)F | C2Cl3F3
product | ethyl 2-iodo-4,5,5-trifluoro-5-chloropentanoate | 0.028 mol, 9.5 g | IC(C(=O)OCC)CC(C(Cl)(F)F)F | C7H9ClF3IO2
